US07071184B2
b. ((R)-1-Methyl-pent-4-enyl)-carbamic acid benzyl ester
Copper (I) bromide-dimethyl sulfide (1.93 g, 9.4 mmol) was dissolved in distilled THF (24 ml), then was cooled to −78 degrees C. A solution of allyl magnesium chloride (9.4 ml, 2M in THF, Aldrich) was added dropwise, then the solution was stirred for 30 minutes. ((R)-2-Iodo-1-methyl-ethyl)-carbamic acid benzyl ester (1.5 g, 4.7 mmol) in distilled THF (3 ml) was added dropwise, then the reaction was warmed to −40 degrees C. and was stirred for 2.5 h. The reaction mixture was quenched with aq. sat. NH4Cl (4 ml) at −40 degrees C., warmed to RT and the gray reaction mixture turned sky blue. THF was removed in vacuo. Then, Et2O was added and the reaction mixture was filtered to remove precipitated solids. The solids were washed with additional Et2O. The combined organics were extracted with 10% NH4OH (3×), then brine. The combined organics were dried with MgSO4, filtered, concentrated in vacuo, then filtered through a plug of silica gel washing with 20% EtOAc/hexanes (100 ml). The solution was concentrated in vacuo, then the resultant colorless oil was used in the next reaction without further purification (0.8 g, 73%).

reactant | allyl magnesium chloride | 2M, 9.4 ml | C(C=C)[Mg]Cl
reactant | ((R)-2-Iodo-1-methyl-ethyl)-carbamic acid benzyl ester | 4.7 mmol, 1.5 g | C(C1=CC=CC=C1)OC(N[C@@H](CI)C)=O | C11H14INO2
solvent | THF | 24 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
catalyst | Copper (I) bromide-dimethyl sulfide | 9.4 mmol, 1.93 g | CSC.[Cu]Br
product | ((R)-1-Methyl-pent-4-enyl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N[C@@H](CCC=C)C)=O | C14H19NO2
